US04042711
2-Methyl-2-{4-[2-(5-chloro-2-methoxy-benzamido)-ethyl]-biphenyl-4'-oxy}-propionic acid was prepared from 4-[2-(5-chloro-2-methoxy-benzamido)-ethyl]-4'-hydroxy-biphenyl and 2-bromo-2-methyl-propionic acid analogous to Example 11. M.p. 145° C. M + H = 468; Mcalc = 467.96.

reactant | 4-[2-(5-chloro-2-methoxy-benzamido)-ethyl]-4'-hydroxy-biphenyl | ClC=1C=CC(=C(C(=O)NCCC2=CC=C(C=C2)C2=CC=C(C=C2)O)C1)OC | C22H20ClNO3
reactant | 2-bromo-2-methyl-propionic acid | BrC(C(=O)O)(C)C | C4H7BrO2
product | 2-Methyl-2-{4-[2-(5-chloro-2-methoxy-benzamido)-ethyl]-biphenyl-4'-oxy}-propionic acid | CC(C(=O)O)(C)OC1=CC=C(C=C1)C1=CC=C(C=C1)CCNC(C1=C(C=CC(=C1)Cl)OC)=O | C26H26ClNO5
